US09034900B2
Step 3: N-[5-bromo-6-(cyclopropylmethoxy)pyridin-3-yl]ethanesulfonamide
Ethylsulfonyl chloride (170 uL, 1.8 mmol) was added to a stirred solution of 5-bromo-6-(cyclopropylmethoxy)pyridin-3-amine (440 mg, 1.8 mmol) and pyridine (725 uL) in DCM (4.5 mL) at 0° C. under nitrogen. After the mixture was allowed to warm to rt and stir for 12 h, it was treated with 1N HCl (15 mL) and extracted with DCM (3×15 mL); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (0 to 100%) in DCM to afford the title compound (181 mg, 88%) as a tan solid. LCMS (M+H)+=336.

reactant | Ethylsulfonyl chloride | 1.8 mmol, 170 uL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 5-bromo-6-(cyclopropylmethoxy)pyridin-3-amine | 1.8 mmol, 440 mg | BrC=1C=C(C=NC1OCC1CC1)N | C9H11BrN2O
reactant | pyridine | 725 uL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | DCM | 4.5 mL | C(Cl)Cl | CH2Cl2
product | N-[5-bromo-6-(cyclopropylmethoxy)pyridin-3-yl]ethanesulfonamide | 181 mg, 88% | BrC=1C=C(C=NC1OCC1CC1)NS(=O)(=O)CC | C11H15BrN2O3S
